US04316022
Preparation of 5-acetyl-4,5-dihydro-s-triazolo[3,4-c]benzo-as-triazine
A mixture of 7.0 g (0.040 mole) of 4,5-dihydro-s-triazolo[3,4-c]benzo-as-triazine, 3.1 g (0.04 mole) of acetyl chloride and 50 ml of toluene is refluxed under nitrogen atmosphere. The reaction mixture is cooled. The title compound, melting at 220° C., is obtained with a yield of 70%. The product does not show melting point depression in admixture with the compound prepared according to Example 8.

reactant | 4,5-dihydro-s-triazolo[3,4-c]benzo-as-triazine | 0.040 mole, 7.0 g | C1=NN=C2NNC3=C(N21)C=CC=C3 | C8H7N5
reactant | acetyl chloride | 0.04 mole, 3.1 g | C(C)(=O)Cl | C2H3ClO
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 5-acetyl-4,5-dihydro-s-triazolo[3,4-c]benzo-as-triazine | yield of 70% | C(C)(=O)N1NC=2N(C3=C1C=CC=C3)C=NN2 | C10H9N5O
